US08048897B2
(2) Synthesis of 3-Bromo-1-(4-ethylbenzy)-1H-indole
A solution of 1-(4-ethylbenzyl)-1H-indole (2.0 g, 8.50 mmol) in DMF (20 mL) was added dropwise to a solution of bromine (0.46 mL, 8.93 mmol) in DMF (20 mL) at room temperature. The reaction mixture was stirred for two hours, and then poured into an ice-cooled sodium pyrosulfurous acid aqueous solution. The resulting mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The residue was recrystallized from ethyl acetate and n-hexane to obtain the title compound (1.68 g, 63%).

reactant | 1-(4-ethylbenzyl)-1H-indole | 8.50 mmol, 2.0 g | C(C)C1=CC=C(CN2C=CC3=CC=CC=C23)C=C1 | C17H17N
reactant | bromine | 8.93 mmol, 0.46 mL | BrBr | Br2
reactant | sodium pyrosulfurous acid | S(=O)(O)OS(=O)O.[Na]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-1-(4-ethylbenzy)-1H-indole | 1.68 g, 63% | BrC1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)CC | C17H16BrN
